Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion
 
Major Surgical or Invasive Procedure:
s/p MAZE,Coronary artery bypass grafts x 2( LIMA-LAD, RA-DG), 
___ Mitral Valve Repair, ligation of left Atrial Appendage 
___

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a complex 
past medical history including myocardial infarction in ___ who 
underwwent a cardiac catheterization after complaining of 
dyspnea on exertion.  This study revealed multi-vessel coronary 
artery disease and she was referred for coronary artery bypass 
surgery. 
 
Past Medical History:
coronary artery disease s/p myocardial infarction ___
diabetes mellitis
paroxysmal atrial fibrillation
hypercholesterolemia
hypothyroidism
chronic obstructive pulmonary disease
carotid stenosis
kidney stones
gastroenteritis
mitral valve prolapse
___ s/p ___
hypertention
s/p tonsillectomy
s/p c-section
s/p vein stripping
 
Social History:
___
Family History:
Her family history is significant for a mother with a heart 
murmur.
 
Physical Exam:
general: well appearing obese female in NAD. 
VS: 98.6, 128/59, 59, 20, 99% on 2liters 
HEENT: unremarkable
Chest: CTA bilat. Sternum stable.
COR: RRR S1, S2
ABD: obese, soft, round, NT,+BS
Extrem: Trace/ +1 edema of bilat ___. Left ___ intact and 
healing well. Steri-strips in place.
neuro: intact. Affect flat.
 
Pertinent Results:
Last Day  Last Week  Last 30 Days  All Results   Hide Comments 
  From Date   To Date    
 
Hematology 
  COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 07:00AM    12.9* 3.45* 11.0* 31.3* 91 31.9 35.2* 
14.5 176 
DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas 
___ 11:00AM    63.5   29.0 4.2 2.1 1.3     
  BASIC COAGULATION ___, PTT, PLT, INR) ___ PTT Plt Ct ___ 
___ 05:20AM    24.9*     2.4* 
BASIC COAGULATION (FIBRINOGEN, DD, TT, REPTILASE, BT) Fibrino 
___ 04:28PM    141* 
 
Chemistry 
  RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 05:20AM      16 0.6   4.2       
ESTIMATED GFR (MDRD CALCULATION) estGFR 
___ 11:00AM    Using this1 

 
ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 11:00AM    19 21 249   66   0.5   
  CHEMISTRY TotProt Albumin Globuln Calcium Phos Mg UricAcd Iron 

___ 07:00AM              2.0     
DIABETES MONITORING %HbA1c 
___ 11:00AM    7.2*1 

___       ___ MRN:   ___       TEE 
(Complete) Done ___ at 5:59:34 ___      FINAL  
Referring Physician     ___  
___.
___  Status: Inpatient DOB: ___ 
Age (years): ___ F  Hgt (in):  
BP (mm Hg): /  Wgt (lb):  
HR (bpm):  BSA (m2):  
Indication: Ischemic heart disease, Mitral regurg. Intraop 
management  
ICD-9 Codes: 440.0, 424.1, 424.0 
___ Information  
Date/Time: ___ at 17:59    ___ MD: ___, MD 
___ Type: TEE (Complete) Sonographer: ___, MD 
Doppler: Full Doppler and color Doppler ___ Location: 
Anesthesia West OR cardiac 
Contrast: None Tech Quality: Adequate 
Tape #: ___-: Machine: 2 
Echocardiographic Measurements  
Results  Measurements  Normal Range  
Left Ventricle - Septal Wall Thickness:  0.9 cm  0.6 - 1.1 cm  
Left Ventricle - Inferolateral Thickness:  1.0 cm  0.6 - 1.1 cm  

Left Ventricle - Diastolic Dimension:  4.1 cm  <= 5.6 cm  
Left Ventricle - Systolic Dimension:  3.1 cm     
Left Ventricle - Fractional Shortening:  *0.24  >= 0.29  
Left Ventricle - Ejection Fraction:  65%  >= 55%  
Aorta - Annulus:  1.7 cm  <= 3.0 cm  
Aorta - Sinus Level:  2.9 cm  <= 3.6 cm  
Aorta - Sinotubular Ridge:  2.2 cm  <= 3.0 cm  
Aorta - Ascending:  2.9 cm  <= 3.4 cm  
Aorta - Descending Thoracic:  1.9 cm  <= 2.5 cm  
 
Findings  
LEFT ATRIUM: Mild ___. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: A catheter or pacing wire is 
seen in the RA and extending into the RV. No ASD by 2D or color 
Doppler. 

LEFT VENTRICLE: Normal LV wall thickness and cavity size. Normal 
regional LV systolic function. Overall normal LVEF (>55%). 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal ascending aorta diameter. Normal aortic arch 
diameter. Simple atheroma in aortic arch. Normal descending 
aorta diameter. Simple atheroma in descending aorta. 

AORTIC VALVE: Normal aortic valve leaflets (3). No AS. Mild (1+) 
AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Moderate 
mitral annular calcification. Torn mitral chordae. No MS. 
___ (2+) MR. ___ vena ___ is >=0.7cm 

TRICUSPID VALVE: Normal tricuspid valve leaflets. Mild to 
moderate [___] TR. 

PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not well seen. 
Physiologic (normal) PR. 

PERICARDIUM: No pericardial effusion. 

GENERAL COMMENTS: A TEE was performed in the location listed 
above. I certify I was present in compliance with ___ 
regulations. The ___ was under general anesthesia throughout 
the procedure. No TEE related complications. Houseofficer caring 
for the ___ was notified of the results by e-mail.  
Conclusions  
PREBYPASS

1. The left atrium is normal in size. Left atrial appendage PWD 
velocities were > 20 cm/sec

2. No atrial septal defect or PFO is seen by 2D or color 
Doppler. 

3. Left ventricular wall thicknesses and cavity size are normal. 
Regional left ventricular wall motion is normal. Overall left 
ventricular systolic function is normal (LVEF 65%). 

4. Right ventricular chamber size and free wall motion are 
normal. 

5. There are simple atheroma in the aortic arch. There are 
simple atheroma in the descending thoracic aorta. 

6. The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion. Mild (1+) aortic regurgitation is seen. 

7. The mitral valve leaflets are mildly thickened with a 
significant thickening along the tip of the anterior leaflet 
between A2 and A3. A small torn mitral chordae may be present in 
the right atria. Predominantly moderate or at worst 
Intermittently moderate to severe (3+) mitral regurgitation is 
seen with a >=0.7cm withan eccentric, posteriorly directed jet. 
Mitral valve area is 2.5 cm2, with a mitral annular diameter of 
3.4 cm. 

8. There is no pericardial effusion.

9. Dr. ___ of all results during the surgery.

POSTBYPASS
1. ___ is on phenlyephrine and low dose epinephrine

2. The left ventricular function remains similar to prebypass

3. The mitral valve had ___ stitch placed. Post bypass 
MVA measured 3.4 cm2 with a mitral annular diameter of 2.3 cm. 
The vena ___ was 0.7 cm. The MR jet is directed along the 
posterior wall.

4. The aortic wall is smooth after decannulation.

5. There is no left atrial appendage seen s/p ligation. 

6. All findings discussed with surgeons at the time of the exam. 
  
  I certify that I was present for this procedure in compliance 
with ___ regulations.

Electronically signed by ___, MD, Interpreting 
physician ___ ___ 18:14  

 
Brief Hospital Course:
Ms. ___ was admitted ___ for heparin given her 
history of atrial fibrillation.  On ___ she underwent a 
coronary artery bypass graft, mitral valve replacement, and MAZE 
procedure with left atrial ligation.  This procedure was 
performed by Dr. ___.  The ___ tolerated the procedure 
well and was transferred in critical but stable condition to the 
surgical intensive care unit. She was extubated and weaned from 
her pressors by post-operative day two.  By post-operative day 
three she was able to be transferred to the surgical step down 
floor.  Her chest tubes and wires were removed.  Coumadin was 
started for her atrial fibrillation history her INR ___ was 
2.4 after rec'ing coumadin 2mg x3days.  She was seen in 
consultation by the physical therapy service.  By post-operative 
day 5 she was ready for discharge to rehab. 
 
Medications on Admission:
glimiperide 0.5
pravastatin 40
coumadin 4 (___), 2 mg other days
levoxyl 100mcg
ASA 81
fosinopril 20
diltiazem 30 TID
lopressor 50 BID
albuterol
plavix 75 
 
Discharge Medications:
1. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal Sig: 
One (1) Tab Sust.Rel. Particle/Crystal PO Q12H (every 12 hours) 
for 7 days.  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
5. Warfarin 1 mg Tablet Sig: as directed Tablet PO DAILY 
(Daily): goal INR 2.0-2.5
___ to take 1mg on ___ then as directed at rehabilitation.  

6. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO HS (at bedtime) as needed for constipation.  
7. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed.  
8. Bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
DAILY (Daily) as needed for constipation.  
9. Pravastatin 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
10. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Glimepiride 1 mg Tablet Sig: One (1) Tablet PO daily ().  
12. Tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed.  
13. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
14. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
15. Lasix 20 mg Tablet Sig: One (1) Tablet PO twice a day for 7 
days.  
16. Metoclopramide 5 mg/mL Solution Sig: Ten (10) mg Injection 
Q6H (every 6 hours) as needed.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
paroxysmal atrial fibrillation
coronary artery disease 
mitral regurgitation
s/p MAZE,Coronary artery bypass grafts x 2,Mitral Valve Repair, 
ligation of left Atrial Appendage
Hypothyroidism
Noninsulin dependent diabetes mellitus
hypertension
hyperlipidemia
s/p Varicose vein ligation

 
Discharge Condition:
good

 
Discharge Instructions:
shower daily, no baths or swiming
no lotions, creams or powders to incisions
no driving for 4 weeks and off all narcotics
no lifting more than 10 pounds for 10 weeks
report any redness of, or drainage from incisions
report any fever greater than 100.5
report any weight gain greater than 2 pounds a day or 5 pounds a 
week
take all medications as directed
 
Followup Instructions:
___